US06887875B2
A solution of NaNO2 (0.555 g, 8.04 mmol) in water (3 ml) is added to a stirred solution of 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine (2 g, 6.1 mmol) in concentrated HCl (3 ml), water (3 ml) and acetic acid (8 ml) below 0° C. over 20 minutes. The mixture is added to a stirred solution of SnCl2 2H2O (3.53 g, 15.7 mmol) in 4N HCl (9 ml) at 0° C. over 15 minutes. The mixture is stirred at 0° C. for 20 minutes and at room temperature for 30 minutes. The mixture is basified by NaOH solution at 0° C. and extracted with EtOAc. The combined extracts are dried over Na2SO4 and concentrated under reduced pressure to give [2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-yl]-hydrazine. Rf (hexane/EtOAc=1:1)=0.24.

reactant | NaNO2 | 8.04 mmol, 0.555 g | N(=O)[O-].[Na+]
reactant | 2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-ylamine | 6.1 mmol, 2 g | COC1=NC(=C(C=C1N)C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C15H15F3N2O3
reactant | SnCl2 | Cl[Sn]Cl
reactant | NaOH | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | HCl | 3 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 4N, 9 ml | Cl | ClH
product | [2-methoxy-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-pyridin-3-yl]-hydrazine | COC1=NC(=C(C=C1NN)C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C15H16F3N3O3
